US09145429B2
1t. 5-Chloro-6-(6-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(4-oxopentyloxy)nicotinonitrile D250
This compound was prepared from 5,6-dichloro-2-(4-oxopentyloxy)nicotinonitrile and 6-fluorobenzo[c][1,2]oxaborole-1,5(3H)-diol in a similar manner to that of D230. 1H-NMR (400 MHz, DMSO-d6) δ (ppm) 1.63-1.67 (m, 2H), 2.02 (s, 3H), 2.3 (t, J=5.25 Hz, 2H), 3.94 (t, J=4.95 Hz, 2H), 5.0 (s, 2H), 7.51 (d, J=4.8 Hz, 1H), 7.63 (d, J=9.0 Hz, 1H), 8.62 (s, 1H), 9.4 (s, 1H).

reactant | 5,6-dichloro-2-(4-oxopentyloxy)nicotinonitrile | ClC=1C(=NC(=C(C#N)C1)OCCCC(C)=O)Cl | C11H10Cl2N2O2
reactant | 6-fluorobenzo[c][1,2]oxaborole-1,5(3H)-diol | FC=1C(=CC2=C(B(OC2)O)C1)O | C7H6BFO3
product | 5-Chloro-6-(6-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(4-oxopentyloxy)nicotinonitrile | ClC=1C(=NC(=C(C#N)C1)OCCCC(C)=O)OC1=CC2=C(B(OC2)O)C=C1F | C18H15BClFN2O5
